US09120772B2
A solution of 3.09 g (14 mmol, 1 eq) of 4-[azido-(5-methylfuran-2-yl)methyl]tetrahydropyran in 60 ml of ethanol in the presence of 470 mg (15% by weight) of palladium on carbon at 10% was stirred at hydrogen atmospheric pressure for 17 hours. The reaction medium was filtered and the filtrate was evaporated. 2.715 g of C-(5-methylfuran-2-yl)-C-(tetrahydropyran-4-yl)methylamine were obtained. Yield=99%.

reactant | 4-[azido-(5-methylfuran-2-yl)methyl]tetrahydropyran | 14 mmol, 3.09 g, 1 eq | N(=[N+]=[N-])C(C1CCOCC1)C=1OC(=CC1)C | C11H15N3O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 470 mg | [Pd] | Pd
product | C-(5-methylfuran-2-yl)-C-(tetrahydropyran-4-yl)methylamine | 2.715 g, Yield=99% | CC1=CC=C(O1)C(C1CCOCC1)N | C11H17NO2
